US07576102B2
4-[4-(4-Trifluoromethyl-phenoxy)-phenoxy]-piperidine hydrochloride salt:
To a solution of t-butyl-4-hydroxy-1-piperidine carboxylate (1.0 g, 5.0 mmol) in anhydrous THF (5 mL) was added 4-[(4-trifluoromethyl)phenoxy]phenol (1.65 g, 6.5 mmol) in THF (5 mL) and triphenyl phosphine (1.57 g, 6 mmol) in THF (5mL). The resulting mixture was cooled to 0° C. using ice-water bath and purged with nitrogen. Diisopropyl azodicarboxylate (1.21 g, 6 mmol) was dissolved in 5 mL of THF and added to above solution drop wise over a period of 30 min under nitrogen. Reaction then was stirred at 0° C. for 0.5 h heated at 70° C. for 16 h. THF was removed in vacuo and crude mixture was purified by silica gel flash chromatography (10% EtOAc/Hexane) to obtain the product. To a solution of the product in dioxane (4 mL) was added 4M HCl in dioxane (10 mL) at rt and the resulting mixture was stirred for 2 h at that temperature. The solvent was removed in vacuo and residue was triturated with ether to obtain a white solid (1.21 g, 65%): MS; m/z 338.4 (M+H), 1H NMR (400 MHz, DMSO-d6); δ 1.83-1.90 (m, 2H), 2.09-2.14 (m, 2H), 3.03-3.09 (m, 2H), 3.20-3.26 (m, 2H), 3.32 (s, 1H), 4.62-4.66 (m, 1H), 7.06-7.10 (m, 7H), 7.70 (d, 2H, J=8.8 Hz), 9.08 (s, 2H); HPLC (UV); 97%.

reactant | t-butyl-4-hydroxy-1-piperidine carboxylate | 5.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-[(4-trifluoromethyl)phenoxy]phenol | 6.5 mmol, 1.65 g | C1=CC(=CC=C1C(F)(F)F)OC2=CC=C(C=C2)O | C13H9F3O2
reactant | triphenyl phosphine | 6 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 6 mmol, 1.21 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(4-Trifluoromethyl-phenoxy)-phenoxy]-piperidine hydrochloride salt | 1.21 g, 65% | Cl.FC(C1=CC=C(OC2=CC=C(OC3CCNCC3)C=C2)C=C1)(F)F | InChI=1S/C18H18F3NO2.ClH/c19-18(20,21)13-1-3-14(4-2-13)23-15-5-7-16(8-6-15)24-17-9-11-22-12-10-17;/h1-8,17,22H,9-12H2;1H
